US09382188B2
G) 3-cyclopropyl-3-(2-(((5-(2,2-dimethylpropyl)-6-(2-fluoro-5-methoxyphenyl)pyridin-3-yl)oxy)methyl)pyridin-4-yl)propanoic acid
To a solution of ethyl 3-cyclopropyl-3-(2-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)pyridin-4-yl)propanoate (182 mg) in THF (2.0 mL) and methanol (1.0 mL) was added 1N aqueous sodium hydroxide solution (2.0 mL), and the mixture was stirred at room temperature for 30 min. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (methanol/ethyl acetate) to give the title compound (164 mg) as a white amorphous solid.

reactant | ethyl 3-cyclopropyl-3-(2-(((6-(2-fluoro-5-methoxyphenyl)-5-neopentylpyridin-3-yl)oxy)methyl)pyridin-4-yl)propanoate | 182 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=NC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C31H37FN2O4
reactant | sodium hydroxide | 1N, 2.0 mL | [OH-].[Na+]
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | methanol | 1.0 mL | CO | CH4O
product | 3-cyclopropyl-3-(2-(((5-(2,2-dimethylpropyl)-6-(2-fluoro-5-methoxyphenyl)pyridin-3-yl)oxy)methyl)pyridin-4-yl)propanoic acid | 164 mg | C1(CC1)C(CC(=O)O)C1=CC(=NC=C1)COC=1C=NC(=C(C1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C29H33FN2O4
